Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1],3.86998677729
[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.65368174204
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.54238621116
[H:1][O:2][C:3][O:5][C:6]#[C:7][C:8]([H:9])[H:10].[H:4]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7][C:8]([H:9])[H:10],-3.3090453818900003
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2],5.412706332030001
[C:1]=[C:2]([C:3](=[O:4])[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:7]([H:8])([H:9])[H:10].[C:3]([O:4])#[C:5][H:6],0.602063794109
[H:1][O:2][C:3]#[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.60493247494
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1][O:2][C:3][C:4]([H:5])([H:6])[H:7]>>[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-2.13426942907
[C:7][H:8].[H:1][C:2][O:3][C:4]=[C:5]=[O:6]>>[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7][H:8],-4.06233919999
[C:5]([H:6])=[C:7]([H:8])[H:9].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9],-4.58798854331
[H:1][C:2]=[C:9]([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:3][C:7](=[C:4]([H:5])[H:6])[H:8]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.85109272936
[H:1][C:2]([H:3])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.60978234937
[C:7]([H:8])([H:9])[H:10].[H:1][C:2][O:3][C:4]=[C:5]=[O:6]>>[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10],-2.23660136182
[C:6]([O:7][C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-4.3585916328600005
[C:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-0.8574702731399999
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.11543857914
[H:1][C:2]#[C:3][O:4][C:5][O:7][C:8]([H:9])([H:10])[H:11].[H:6]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-2.88847368649
[H:1][C:2].[O:3][C@@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12],-5.97445391877
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[H:10].[H:1][O:2][O:3],0.134419767531
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-3.35329881831
[H:12].[H:1][C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.0132634671000003
[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][H:7],2.5311941902200004
[C:6](#[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],1.1618181871100002
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],4.79460912255
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:6]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.7111075771700002
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][H:12]>>[C:11][H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],4.73653662436
[C:1][C:2]([H:3])([H:4])[C@:5]12[O:6][C:7]1[C:8]2[H:9]>>[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:8](=[C:7])[H:9],-0.56629818305
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][H:7].[H:8]>>[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8],-2.50672769553
